US06426345B1
A mixture of 2-chloro-3-nitropyridine (0.87 g), N-(3-aminophenyl)-2-naphthalenecarboxamide (1.31 g) and potassium carbonate (1.0 g) in 1,4-dioxane (20 ml) was stirred under reflux for 20 hours. After cooling, insoluble materials were removed by filtration and the filtrate was concentrated. The resultant solid was collected and washed with isopropyl ether to give 2-[3-(2-naphthoylamino)phenylamino]-3-nitropyridine (961 mg) as an orange solid.

reactant | 2-chloro-3-nitropyridine | 0.87 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | N-(3-aminophenyl)-2-naphthalenecarboxamide | 1.31 g | NC=1C=C(C=CC1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C17H14N2O
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-[3-(2-naphthoylamino)phenylamino]-3-nitropyridine | 961 mg | C1=C(C=CC2=CC=CC=C12)C(=O)NC=1C=C(C=CC1)NC1=NC=CC=C1[N+](=O)[O-] | C22H16N4O3
